data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-c1ccc(OC)cc1_2-c1ccc(Cl)cc1_3-c1ccccc1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(c1ccc(OC)cc1)(=S)N","C(c1ccccc1)(=O)C(c1ccc(Cl)cc1)Cl"],"products_smiles": ["c1ccc(OC)cc1c1nc(c1ccccc1)c(c1ccc(Cl)cc1)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(=[NH2+])SC(c1ccc(Cl)cc1)C(c1ccccc1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(=N)SC(c1ccc(Cl)cc1)C(c1ccccc1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C1=[NH+]C(c1ccccc1)(O)C(c1ccc(Cl)cc1)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C1=NC(c1ccccc1)([OH2+])C(c1ccc(Cl)cc1)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1c1nc(c1ccccc1)c(c1ccc(Cl)cc1)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-001_1-C1CCCCC1_2-S(=O)(=O)C","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C1CCCCC1)(S(=O)(=O)C)C=O","C(C1CCCCC1)(S(=O)(=O)C)C=O"],"products_smiles": ["C(C1CCCCC1)(S(=O)(=O)C)C(O)C(C1CCCCC1)(S(=O)(=O)C)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(S(=O)(=O)C)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(S(=O)(=O)C)C([O-])C(C1CCCCC1)(S(=O)(=O)C)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(S(=O)(=O)C)C(O)C(C1CCCCC1)(S(=O)(=O)C)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
